US07217722B2
N-(1,3-Dioxo-2,3-dihydro-1H-5-isoindolyl)-N′-(2,4,6-trichlorophenyl)urea
5-Aminophthalimide (100 mg, 0.62 mmol) and 2,4,6-trichlorophenyl isocyanate (150.9 mg, 0.68 mmol) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 5-Aminophthalimide | 0.62 mmol, 100 mg | NC1=CC=C2C(C(=O)NC2=O)=C1 | C8H6N2O2
reactant | 2,4,6-trichlorophenyl isocyanate | 0.68 mmol, 150.9 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N=C=O | C7H2Cl3NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1,3-Dioxo-2,3-dihydro-1H-5-isoindolyl)-N′-(2,4,6-trichlorophenyl)urea | O=C1NC(C2=CC(=CC=C12)NC(=O)NC1=C(C=C(C=C1Cl)Cl)Cl)=O | C15H8Cl3N3O3
